US05629293
a) (2R,5S)-2.5-Dihydro-3,6dimethoxy-2-isopropyl-5-furfurylpyrazine
A 1.55M solution of butyllithium (6.45 ml, 10 mmol) in hexane was added by syringe to a stirred solution of (2R)-2,5-dihydro-3,6-dimethoxy-2-isopropylpyrazine (1.84 g, 10 mmol) in THF (50 ml) at -78° C. and the solution stirred for 1 hour at -78° C. A solution of 2-chloromethylfuran (1.3 g, 11 mmol) in THF (10 ml) was added gradually and the stirring continued overnight. The solvent was removed under reduced pressure, the residue dissolved in ethyl acetate (50 ml) and extracted with phosphate buffer (pH 7). The water phase was extracted twice with ethyl acetate (2×20 ml ). The organic layer was dried (MgSO4), solvent evaporated under reduced pressure and the residue purified by flash chromatography (diethyl ether/hexane 15/1, silica gel).

reactant | butyllithium | 10 mmol, 6.45 ml | C(CCC)[Li]
reactant | (2R)-2,5-dihydro-3,6-dimethoxy-2-isopropylpyrazine | 10 mmol, 1.84 g | COC=1[C@H](N=C(CN1)OC)C(C)C | C9H16N2O2
reactant | 2-chloromethylfuran | 11 mmol, 1.3 g | ClCC=1OC=CC1 | C5H5ClO
solvent | hexane | CCCCCC | C6H14
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (2R,5S)-2.5-Dihydro-3,6dimethoxy-2-isopropyl-5-furfurylpyrazine | COC=1[C@H](N=C([C@@H](N1)CC1=CC=CO1)OC)C(C)C | C14H20N2O3
